US08895745B2
Procedure AI, step 3b: 7-[2-(2,2,2-Trifluoro-ethyl)-2H-tetrazol-5-yl]-imidazo[1,2-a]pyridine
Sodium hydride (60 mg, 1.5 mmol) was added to a stirred suspension of 7-(2H-tetrazol-5-yl)-imidazo[1,2-a]pyridine (250 mg, 1.3 mmol) in dry DMF (4 ml) under a nitrogen atmosphere. After 1 h, Trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester (1.16 g, 5 mmol) was added, followed by 18-crown-6 (260 mg, Immol). The reaction mixture was stirred at room temperature for 18 h then quenched with water and extracted with EtOAc (×2). The combined organic extracts were washed with brine (×1), dried (Na2SO4), filtered and the solvent removed in vacuo. Purification via silica column chromatography (0-2% 2M NH3MeOH/CH2Cl2) afforded the product (138 mg). MS: [M+H]+ 269.

reactant | Sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 7-(2H-tetrazol-5-yl)-imidazo[1,2-a]pyridine | 1.3 mmol, 250 mg | N=1NN=NC1C1=CC=2N(C=C1)C=CN2 | C8H6N6
reactant | Trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | 5 mmol, 1.16 g | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
reactant | 18-crown-6 | 260 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-[2-(2,2,2-Trifluoro-ethyl)-2H-tetrazol-5-yl]-imidazo[1,2-a]pyridine | 138 mg | FC(CN1N=C(N=N1)C1=CC=2N(C=C1)C=CN2)(F)F | C10H7F3N6
